US07795283B2
vii) Methyl [4-(5-{[(benzyloxy)carbonyl]amino}pyridin-2-yl)cyclohexylidene]acetate
To an ice water cooled suspension of a 60% mineral oil dispersion of sodium hydride (585 mg, 24.35 mmol) in anhydrous THF (60 mL) was added trimethylphosphonoaceate (3.1 mL, 18.73 mmol). After 10 minutes a solution of benzyl [6-(4-oxocyclohexyl)pyridin-3-yl]carbamate, prepared as above, (4.05 g, 12.49 mmol) in THF (40 mL) was added and the reaction mixture allowed to warm to ambient temperature over the weekend. Water (100 mL) was added and the volatile material was removed under reduced pressure and the mixture extracted into EtOAc (4×200 mL) the organic extracts were combined, washed with brine (50 mL), dried (MgSO4) and concentrated under reduced pressure to leave crude product. This was purified on a 120 g silica SiliCycle cartridge, loading in and eluting 30-50% EtOAc/isohexane to provide the title compound (3.17 g, 66.7%); 1H NMR (CDCl3) δ 1.63-1.76 (m, 2H), 2.03-2.15 (m, 3H), 2.31-2.44 (m, 2H), 2.92-2.97 (m, 1H), 3.69 (s, 3H), 3.92-3.96 (m, 1H), 5.21 (s, 2H), 5.68 (s, 1H), 6.71 (s, 1H), 7.12 (d, 1H), 7.35-7.40 (m, 5H), 8.37 (s, 1H), 8.37 (s, 1H); MS m/e MH+ 381.

reactant | sodium hydride | 24.35 mmol, 585 mg | [H-].[Na+]
reactant | trimethylphosphonoaceate | 18.73 mmol, 3.1 mL | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | benzyl [6-(4-oxocyclohexyl)pyridin-3-yl]carbamate | O=C1CCC(CC1)C1=CC=C(C=N1)NC(OCC1=CC=CC=C1)=O | C19H20N2O3
reactant | Water | 100 mL | O | H2O
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl [4-(5-{[(benzyloxy)carbonyl]amino}pyridin-2-yl)cyclohexylidene]acetate | 3.17 g, 66.7% | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=NC1)C1CCC(CC1)=CC(=O)OC | C22H24N2O4
